US06927230B2
A mixture of 1,5-bis(4-methoxyphenyl)-3-(methylsulfinyl)-1H-1,2,4-triazole (152 mg, 0.443 mmol) and m-chloroperbenzoic acid (115 mg, 0.664 mmol) in dichloromethane (1.5 mL) was stirred at room temperature for 6 hours. Dichloromethane and sat. sodium bicarbonate solution were poured into the mixture and the organic layer was separated. The aqueous layer was extracted with dichloromethane. A combined organic layer was washed with sat. sodium bicarbonate solution and brine and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was triturated with diisopropyl ether and the precipitate was isolated by filtration, washed with diisopropyl ether, and dried in vacuo to give 1,5-bis(4-methoxyphenyl)-3-(methylsulfonyl)-1H-1,2,4-triazole (130 mg, 81.7% yield).

reactant | 1,5-bis(4-methoxyphenyl)-3-(methylsulfinyl)-1H-1,2,4-triazole | 0.443 mmol, 152 mg | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)S(=O)C | C17H17N3O3S
reactant | m-chloroperbenzoic acid | 0.664 mmol, 115 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 1,5-bis(4-methoxyphenyl)-3-(methylsulfonyl)-1H-1,2,4-triazole | 130 mg, 81.7% yield | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)S(=O)(=O)C | C17H17N3O4S
